US05587485
Preparation of 1-Methylethyl 5-[4-bromo-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-2-chloro-4-fluorobenzoate.
A solution of 100 g (0.25 mol) 5-[4-bromo-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-2-chloro-4-fluorobenzoic acid (Compound No. 3) in 580 mL of toluene was prepared and treated with 1 g of dimethylformamide (DMF). The stirred mixture was heated to 45° C., treated with 30 g (0.252 mol) of thionyl chloride and subsequently heated to 60° C.-65° C. for one hour. After cooling to 40° C., a solution of 30 g (0.50 mol) of isopropanol and 27.6 g (0.35 mol) pyridine was added at once. The mixture was stirred and heated to about 55° C. for 30 minutes to complete conversion of the intermediate acid chloride to the desired product. Treatment with 650 mL water and 45 g of acetone gave two clear layers. The aqueous layer was removed and the organic portion washed with water, saturated brine, dried with MgSO4 and concentrated to give a viscous oil. A solid was obtained by solution of the oil into 250 g of warm isopropanol, cooling of the mixture to room temperature and slow treatment with 600 mL of cold water. The resultant precipitate was collected by filtration, washed with water and air dried to give 105 g (94.7%) of a white solid: mp 79.5° C.-80.5° C.; 1H NMR (CDCl3) δ 1.49 (d, 6H), 4.21 (s, 3H), 5.38 (m, 1H), 7.43 (d, 1H), 8.14 (d, 1H).

reactant | 5-[4-bromo-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-2-chloro-4-fluorobenzoic acid | 0.25 mol, 100 g | BrC=1C(=NN(C1C(F)(F)F)C)C=1C(=CC(=C(C(=O)O)C1)Cl)F | C12H6BrClF4N2O2
reactant | thionyl chloride | 0.252 mol, 30 g | S(=O)(Cl)Cl | Cl2OS
reactant | isopropanol | 0.50 mol, 30 g | C(C)(C)O | C3H8O
reactant | pyridine | 0.35 mol, 27.6 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 580 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 1 g | CN(C=O)C | C3H7NO
product | 1-Methylethyl 5-[4-bromo-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-2-chloro-4-fluorobenzoate | BrC=1C(=NN(C1C(F)(F)F)C)C=1C(=CC(=C(C(=O)OC(C)C)C1)Cl)F | C15H12BrClF4N2O2
